US04992591
(a) Preparation of 2-Trimethylsilyloxy-3,4-dihydronaphthalene (18)
Charge an oven dried, nitrogen flushed 100-mL round bottomed flask equipped with a stirring bar with β-tetralone (4.977 grams, 0.0340 moles), triethylamine (6.970 grams, 0.0689 moles), 4-dimethylamino pyridine (0.219 grams,0.0018 moles), trimethylsilyl chloride (7.704 grams, 0.0709 moles) and 30 mL methylene chloride. Stir at RT for 20 hours, filter, wash the solid with 1×20 mL methylene chloride, wash the combined organic layers with 1×5 mL saturated sodium bicarbonate solution, 1×5 mL water, dry over magnesium sulfate, concentrate on a Buchi rotavapor and distill (96°-99° C., 1 Torr) to yield the product as a viscous oil.

reactant | β-tetralone | 0.0340 moles, 4.977 grams | C1CC2=CC=CC=C2CC1=O | C10H10O
reactant | triethylamine | 0.0689 moles, 6.970 grams | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 0.0709 moles, 7.704 grams | C[Si](C)(C)Cl | C3H9ClSi
catalyst | 4-dimethylamino pyridine | 0.0018 moles, 0.219 grams | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-Trimethylsilyloxy-3,4-dihydronaphthalene | C[Si](OC1=CC2=CC=CC=C2CC1)(C)C | C13H18OSi
